US09427479B2
Triethyl amine (40 g, 0.4 mol) was added to a suspension of Boc-L-phenylalanine (90 g, 0.34 mol) and N,O-dimethylhydroxylamine hydrochloride (36.5 g, 0.37 mol) in DCM (500 mL) at 0° C. with stirring. The suspension was stirred for 10 min and EDCI (HCl salt, 72 g, 0.37 mol) was added. The suspension was stirred for further 3 hours at 0° C. The mixture was quenched with saturated aqueous NaHCO3 (1 L). The layers were separated, and the aqueous phase was re-extracted with DCM (500 mL×3). The combined organic phases were washed with water (1 L×3), 5% KHSO4 aqueous (1 L×3), saturated aqueous NaHCO3 (1 L×3), and brine (1 L×1), was dried (Na2SO4), and was concentrated to dryness. The crude material was further purified by flash chromatography (silica gel, EtOAc/Hexane=1:1) and afforded (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxo-3-phenylpropan-2-ylcarbamate (85.1 g, 81% yield) as a white solid. 1H NMR (300 MHz, CDCl3): δ 7.1-57.26 (m, 5H), 5.25 (bs, 1H), 4.95 (m, 1H), 3.63 (s, 3H), 3.14 (s, 3H), 2.83-3.07 (m, 2H), 1.37 (s, 9H).

reactant | Triethyl amine | 0.4 mol, 40 g | C(C)N(CC)CC | C6H15N
reactant | Boc-L-phenylalanine | 0.34 mol, 90 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.37 mol, 36.5 g | Cl.CNOC
reactant | EDCI | 0.37 mol, 72 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxo-3-phenylpropan-2-ylcarbamate | 85.1 g, 81% yield | CON(C([C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O)C | C16H24N2O4
